US04162154
2,3-Dihydro-3,3-dimethylbenzofuran-5-yl ethanesulphonate
The same compound was also prepared by reacting 2,3-dihydro-3,3dimethyl-5-benzofuranol with ethanesulphonyl chloride in the presence of triethylamine in an analogous way to that described in Example 37(a).

reactant | 2,3-dihydro-3,3dimethyl-5-benzofuranol | CC1(COC2=C1C=C(C=C2)O)C | C10H12O2
reactant | ethanesulphonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3-Dihydro-3,3-dimethylbenzofuran-5-yl ethanesulphonate | C(C)S(=O)(=O)OC=1C=CC2=C(C(CO2)(C)C)C1 | C12H16O4S
